US05344830
Step B: N-(3,5-Dichlorophenyl)aniline
A mixture of 12 g (58.8 mmole) of N-acetyl-3,5-dichloroaniline, 8.13 g (58.8 mmole) of potassium carbonate (dried at 155° C. under vacuum), 23 g (147 mmole) of bromobenzene (dried over molecular sieves), and 1.12 g (5.9 mmole) of cuprous iodide was heated in a 175° C. oil bath under a reflux condenser under nitrogen for 18 hours. The mixture was cooled to room temperature and triturated with 1 liter of benzene. The solution was concentrated in vacuo. The residue was treated with 50 mL of EtOH and 7.76 g (118 mmole) of potassium hydroxide and the resulting mixture was heated to reflux for two hours. The mixture was cooled and the solvent removed in vacuo. The residue was taken up in 150 mL of hexanes and 20 mL of EtOAc and the resulting solution was washed with 2×100 mL of 2N aqueous HCl and 70 mL of water. The latter wash was back extracted with 60 mL of ethyl acetate and the combined organic layers were dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified by flash chromatography on 200 g of silica gel with 2 liters of 50:1 hexanes:ethyl acetate to give 10 g (71%) of a yellow oil.

reactant | N-acetyl-3,5-dichloroaniline | 58.8 mmole, 12 g | C(C)(=O)NC1=CC(=CC(=C1)Cl)Cl | C8H7Cl2NO
reactant | potassium carbonate | 58.8 mmole, 8.13 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromobenzene | 147 mmole, 23 g | BrC1=CC=CC=C1 | C6H5Br
reactant | potassium hydroxide | 118 mmole, 7.76 g | [OH-].[K+]
solvent | EtOH | 50 mL | CCO | C2H6O
product | N-(3,5-Dichlorophenyl)aniline | 10 g, 71% | ClC=1C=C(C=C(C1)Cl)NC1=CC=CC=C1 | C12H9Cl2N
